US04918074
A solution of 2 g of 5-amino-4-ethoxycarbonylimidazole and 3.4 g of ethyl α-acetyl-3-nitrocinnamate in 50 ml of ethanol is refluxed under heating for 7 hours under a nitrogen atmosphere. The ethanol is removed under reduced pressure, the resulting oil is purified by column chromatography on silica gel with a mixture of chloroform and methanol as eluent. Recrystallization from a mixture of isopropyl alcohol and isopropyl ether gives 2.5 g of 3,8-diethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine, melting at 160°-162° C.

reactant | 5-amino-4-ethoxycarbonylimidazole | 2 g | NC1=C(N=CN1)C(=O)OCC | C6H9N3O2
reactant | ethyl α-acetyl-3-nitrocinnamate | 3.4 g | C(C)(=O)C(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-] | C13H13NO5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,8-diethoxycarbonyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydroimidazo[1,5-a]pyrimidine | 2.5 g | C(C)OC(=O)C1=C(NC=2N(C1C1=CC(=CC=C1)[N+](=O)[O-])C=NC2C(=O)OCC)C | C19H20N4O6
